US04241069
4'-chloro-3-methylene flavanone
In a similar manner as described in Example 1, 10 g of 4'-chloro flavanone, as described in Bull. Soc. Chim. France 2248 (1963), was converted to 4.0 g of crude 4'-chloro-3-dimethylaminomethyl flavanone hydrochloride. The hydrochloride salt was recrystallized twice from acetone to give 1.1 g of crystals, m.p. 147°-149° C.

reactant | 4'-chloro flavanone | 10 g | ClC1=CC=C(C2OC3=CC=CC=C3C(C2)=O)C=C1 | C15H11ClO2
reactant | 4'-chloro-3-dimethylaminomethyl flavanone hydrochloride | 4.0 g | Cl.ClC1=CC=C(C2OC3=CC=CC=C3C(C2CN(C)C)=O)C=C1
product | 4'-chloro-3-methylene flavanone | 1.1 g | ClC1=CC=C(C2OC3=CC=CC=C3C(C2=C)=O)C=C1 | C16H11ClO2
